datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17](=[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])[H:24])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[C:19]([C:18](=[C:17]([H:22])[H:23])[H:24])([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])[H:7],40.8777
[C:0](#[C:1][C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([C:5]([H:17])([H:18])[H:19])[C:6]([C:7](=[C:8]([C:9]([C:10]([H:24])([H:25])[H:26])[C:11](=[C:12]([H:28])[H:29])[H:27])[H:23])[H:22])([H:20])[H:21])[H:13]>>[C:0](#[C:1][C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([H:17])([H:18])[H:19])[C:6]([H:20])([H:21])[C:7]([H:22])=[C:8]([H:23])[C:9]1([C:10]([H:24])([H:25])[H:26])[C:11](=[C:12]([H:28])[H:29])[H:27])[H:13],140.917
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([O:4][O:5][H:14])[H:8])([H:6])[H:7]>>[C:0]1([H:6])([H:7])[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:8])[O:4]1.[O:5][H:14],45.1872
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18])[H:17])([H:15])[H:16]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:12]([C:11](=[C:10]([H:15])[H:16])[H:17])([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18],130.122
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9](=[C:10]([H:18])[H:19])[H:17])=[C:11]([C:12]([H:20])([H:21])[H:22])[C:13]([H:23])([H:24])[H:25])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:14])[H:15])[H:16])([C:9](=[C:10]([H:18])[H:19])[H:17])[C:11]([C:12]([H:20])([H:21])[H:22])[C:13]([H:23])([H:24])[H:25])[H:3],46.8608
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([C:5]([H:11])([H:12])[H:13])([H:10])[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18])[H:6],42.0492
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([C:6]([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])([H:15])[H:16])[H:14])[H:10]>>[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]1([H:14])[C:5]([H:15])([H:16])[C:6]1([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])[H:10],61.5466
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[C:19](=[C:20]([H:22])[H:23])[H:21]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])([H:12])[C:19](=[C:20]([H:22])[H:23])[H:21])([H:9])([H:10])[H:11],8.07512
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21](=[C:22]([H:24])[H:25])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([C:7](=[C:8]([H:19])[H:20])[H:18])[C:21](=[C:22]([H:24])[H:25])[H:23])[H:11])([H:9])[H:10],3.47272
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](=[C:12][C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:12](=[C:11]([H:15])[H:16])[C:13](=[C:14]([H:18])[H:19])[H:17],17.5728
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9]([C:10]=[S:11])[H:14])([H:12])[H:13]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:10]([C:9](=[C:8]([H:12])[H:13])[H:14])=[S:11],79.0776
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30][O:31][H:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:24][O:30][O:31][H:32],62.751632
[C:0]([C:1]([N:2]([H:7])[H:8])[H:6])([H:3])([H:4])[H:5].[C:9](=[O:10])[H:11]>>[C-:9]#[O+:10].[C:0]([C:1]([N:2]([H:7])[H:8])([H:6])[H:11])([H:3])([H:4])[H:5],0.0
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9](=[C:10]([H:22])[H:23])[H:21])=[C:11]([c:12]1[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]1[H:29])[H:24])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:11]([C:8]([C:7](=[C:6]([H:18])[H:19])[H:20])[C:9](=[C:10]([H:22])[H:23])[H:21])([c:12]1[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]1[H:29])[H:24])[H:3],32.7607
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([O:3][O:4][H:15])[C:5]([O:6][H:17])([O:7][O:8])[H:16])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([O:3][O:4][H:15])[C:5]([O:6][H:17])([O:7][O:8][H:9])[H:16])([H:10])[H:11],91.4204
